data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-C(=O)N(C)C_2-c1ccccc1","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(CC(=O)N(C)C)(c1ccccc1)"],"products_smiles": ["O=C(C)OC(C(=O)N(C)C)S(c1ccccc1)"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(CC(=O)N(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(CC(=O)N(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=CC(=O)N(C)C)(c1ccccc1)","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(C(=O)N(C)C)S(c1ccccc1)","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-142_1-c1cocc1C_2-c1ccc(Cl)cc1_3-C","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1cocc1C)(c1ccc(Cl)cc1)(C)"],"products_smiles": ["N(Oc1cocc1C)(c1ccc(Cl)cc1)(C)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1cocc1C)(c1ccc(Cl)cc1)(C)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1cocc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
